US04088766
1-(p-aminophenyl)-3-methyl-3-(4-pyridylmethyl)urea
To a mixture of 5.72 gms. (0.02 mole) of 1-(p-nitrophenyl)-3-methyl-3-(4-pyridylmethyl)urea (see U.S. Pat. No. 3,700,678), 200 ml. of ethanol and 65 ml. of hydrazine hydrate there is added with stirring 0.5 gms. of 5 percent palladium-on-carbon in 50 ml. of ethanol. The resulting mixture is allowed to stand overnight at room temperature and then is refluxed for 2 to 3 hours. The hot reaction mixture is then filtered and the filtrate evaporated to remove solvent. The residue is 1-(p-aminophenyl)-3-methyl-3-(4-pyridylmethyl)urea.

reactant | 1-(p-nitrophenyl)-3-methyl-3-(4-pyridylmethyl)urea | 0.02 mole | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)N(CC1=CC=NC=C1)C | C14H14N4O3
reactant | hydrazine hydrate | O.NN
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 1-(p-aminophenyl)-3-methyl-3-(4-pyridylmethyl)urea | NC1=CC=C(C=C1)NC(=O)N(CC1=CC=NC=C1)C | C14H16N4O
